US07323455B2
A mixture of 1-(2-amino-5-bromo-phenyl)-ethanone (8 g, 37 mmol) and glycine ethyl ester hydrogen chloride (6.7 g, 48 mmol) in pyridine was heated at reflux for 24 hrs under nitrogen. The reaction mixture was cooled, solvent removed, and residue was treated with a saturated aqueous ammonium chloride solution (200 mL). Ethyl acetate (300 mL) was added and organic layer was separated, dried (MgSO4), concentrated, and the residue purified on silica gel column (hexane:ethyl acetate/1:1) to give 7-bromo-5-methyl-1,3-dihydro-benzo[e][1,4]diazepin-2-one as a brown solid (1.51 g, 16%). 1H NMR (DMSO-d6): δ 10.49 (s, 1H), 7.92 (d, J=2.0 Hz, 1H), 7.66 (dd, J=8.7, 2.1 Hz, 1H), 7.08 (d, J=8.7 Hz, 1H), 3.91 (s, 2H), 2.39 (s, 3H). MS (ESI) m/z 253/255 ([M+H]+); Anal. calcd for C10H9BrN2O: C, 47.46; H, 3.58; N, 11.07. Found: C, 47.58; H, 3.52; N, 10.95.

reactant | 1-(2-amino-5-bromo-phenyl)-ethanone | 37 mmol, 8 g | NC1=C(C=C(C=C1)Br)C(C)=O | C8H8BrNO
reactant | glycine ethyl ester hydrogen chloride | 48 mmol, 6.7 g | Cl.C(C)OC(CN)=O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 7-bromo-5-methyl-1,3-dihydro-benzo[e][1,4]diazepin-2-one | 1.51 g, 16% | BrC1=CC2=C(NC(CN=C2C)=O)C=C1 | C10H9BrN2O
